US07244751B2
Preparation of 4-[N-(Pyridin-3-ylacryloyl)aminomethyl]benzoic acid
To a suspension of 0.33 g (2.01 mmol) of N,N′-carbonyldiimidazole in tetrahydrofunan (10 ml) is added drop-wise a solution of 0.30 g (2.01 mmol) of 3-pyridineacrylic acid at 0° C. Then, the mixture is stirred at room temperature for 3 hours and added drop-wise to a separately prepared 2.0 ml (2.00 mmol) of 1N aqueous sodium hydroxide solution including 0.30 g (2.00 mmol) of 4-aminomethylbenzoic acid, followed by stirring at room temperature for 8 hours. The reaction mixture is evaporated under vacuum. To the residue is added a saturated solution of sodium chloride (2 ml), then the mixture is neutralized with concentrated hydrochloric acid to pH 5. The deposited white solid is collected by filtration, washed with ice-water, and then dried to give the title compound (0.46 g, 82%). HRMS calcd for C16H14N2O3: 282.2988. Found: 282.2990. MA calcd for: C16H14N2O3: C, 68.07%; H, 5.00%; N, 9.92%. Found: C, 68.21%; H, 5.03%; N, 9.90%.

reactant | 3-pyridineacrylic acid | 2.01 mmol, 0.30 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | sodium hydroxide | 2.00 mmol, 1N, 2.0 ml | [OH-].[Na+]
reactant | 4-aminomethylbenzoic acid | 2.00 mmol, 0.30 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
product | 4-[N-(Pyridin-3-ylacryloyl)aminomethyl]benzoic acid | 0.46 g, 82% | N1=CC(=CC=C1)C=CC(=O)NCC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
